US05380721
1,2,4,5-Tetrahydro-4-methyl-1-phenyl-3H-2,4-benzodiazepin-3-one
A solution of 32.8 g (145 mmol) of 2-[(methylamino)methyl]-α-phenylbenzenemethanamine in 215 mL of chloroform was treated with 25.9 g (159 mmol) of carbonyldiimidazole. The reaction was stirred at room temperature for 19 hours, washed four times with water, dried over sodium sulfate and stripped in vacuo. The gummy residue was triturated in and recrystallized from ethyl acetate to yield 26 g (71%) of product, mp 198-199.

reactant | 2-[(methylamino)methyl]-α-phenylbenzenemethanamine | 145 mmol, 32.8 g | CNCC1=C(C=CC=C1)C(N)C1=CC=CC=C1 | C15H18N2
reactant | carbonyldiimidazole | 159 mmol, 25.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | chloroform | 215 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,2,4,5-Tetrahydro-4-methyl-1-phenyl-3H-2,4-benzodiazepin-3-one | 26 g, 71% | CN1CC2=C(C(NC1=O)C1=CC=CC=C1)C=CC=C2 | C16H16N2O
